US04806685
4'-Fluoro-2,2,2-trifluoroacetophenone (F. E. Herkes et al.: J. Org. Chem. 32, 1311-18 (1967)) is reacted with benzyl-triphenyl-phosphonium chloride in the presence of an ethanol solution of sodium ethoxide. 1-Phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-propene is obtained with a yield of 91%; b.p.: 110°-114° C./0.2 mm Hg, m.p.: 43°-45° C.

reactant | 4'-Fluoro-2,2,2-trifluoroacetophenone | FC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4F4O
reactant | sodium ethoxide | [O-]CC.[Na+]
catalyst | benzyl-triphenyl-phosphonium chloride | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 1-Phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-propene | yield of 91% | C1(=CC=CC=C1)C=C(C(F)(F)F)C1=CC=C(C=C1)F | C15H10F4
